US04871720
25.0 g of 4-phenylpiperidine (0.15 mol) are placed in 50 ml of diethyl ether and, while stirring, 15.1 g of ethyl acrylate are gradually added thereto. With a slight increase in temperature, a clear solution forms. After standing overnight at room temperature, the ether is distilled off. The oil remaining behind is the crude 3-(4-phenylpiperidino)-propionic acid ethyl ester (yield approx. 95%).

reactant | 4-phenylpiperidine | 0.15 mol, 25.0 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | ethyl acrylate | 15.1 g | C(C=C)(=O)OCC | C5H8O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-(4-phenylpiperidino)-propionic acid ethyl ester | yield approx. 95% | C(C)OC(CCN1CCC(CC1)C1=CC=CC=C1)=O | C16H23NO2
